* C:\Users\molyo\OneDrive\Desktop\MIL\TailGator\Simulation\Main PCB\5V Protection Circuits\5V_Protection.asc
V2 VSupply 0 PWL(0 0 50m 0 51m -5.5 150m -6 151m -6 200m -24 201m -24 250m 5 251m 5 300m 5.6 301m 5.6 350m 24 351m 24)
C2 VSupply 0 1µF
XSCR1 5VRAW 0 N001 TN805-600B
C3 N001 0 100nF
R1 N001 0 3.3k
XU2 VSupply 5VRAW F4A
R§LOAD 0 5VLOAD 100k
M2 5VRAW 5VLOAD 5VLOAD 5VLOAD AONR21321
XU1 N001 5VLOAD BZT52C4V7
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\molyo\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 700m
* REVERSE POLARITY PROTECTION
* TAILGATOR INTERCONNECT SYSTEM
* PROTECTION CIRCUIT SIMULATION
* 11/19/2023
* AUTHORS:
* YOVANY MOLINA
* BLAKE SANDERS
* DATE:
.lib "Zener_DiodesInc.lib"
.lib "st_standard_sensitive_scr.lib"
.lib "fuse2.lib"
* SUPPLY
* OVERVOLTAGE PROTECTION
* TEST LOAD
* NOTES:\n- REVERSE POLARITY PROTECTION USING AONR21321 HAS AN OFFSET OF 0.6V.\nCIRCUIT NEEDS 5.6V TO REACH 5V.
.lib C:\Users\molyo\OneDrive\Desktop\MIL\TailGator\Simulation\Main PCB\5V Protection Circuits\BZT52C4V7.spice.txt
.lib fuse2.lib
.backanno
.end
